US09388185B2
2-(3,5-Dimethoxyphenethyl)-6-(3-(piperazin-1-yl)phenyl)-5H-pyrrolo[2,3-b]pyrazine
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperazine. LCMS calculated for C26H30N5O2(M+H)+: m/z=444.2. Found 444.2.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperazine | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CCNCC1)C | C16H25BN2O2
product | 2-(3,5-Dimethoxyphenethyl)-6-(3-(piperazin-1-yl)phenyl)-5H-pyrrolo[2,3-b]pyrazine | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C3=CC(=CC=C3)N3CCNCC3)C=C(C1)OC | C26H29N5O2
